US07230011B2
Combine 3-bromo-4-nitro-1-tert-butyldimethylsilyloxybenzene and dry THF. Cool to about −45° C. and then treat with vinylmagnesium bromide (1.2 eq.) over a few minutes. After about 45 minutes, pour the reaction mixture into saturated aq. NH4Cl, extract with ether, combined the organic extracts and extract with water, dry over Na2SO4 and concentrate. Purify to give 7-bromo-5-(tert-butyldimethylsilanyloxy)-1H-indole.

reactant | 3-bromo-4-nitro-1-tert-butyldimethylsilyloxybenzene | BrC=1C=C(C=CC1[N+](=O)[O-])O[Si](C)(C)C(C)(C)C | C12H18BrNO3Si
reactant | vinylmagnesium bromide | 1.2 eq. | C(=C)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | 7-bromo-5-(tert-butyldimethylsilanyloxy)-1H-indole | BrC=1C=C(C=C2C=CNC12)O[Si](C)(C)C(C)(C)C | C14H20BrNOSi
